US05356904
1-{1-[4-(2-Carboxyethyl)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (2 g) is dissolved in methanol (50 ml) and thereto is added dropwise thionyl chloride (1.1 ml) under ice cooling. After adding, the mixture is stirred at 0°-5° C. for 1 hour and further at room temperature overnight. The solvent is concentrated and the resulting residue is purified by silica gel column chromatography (solvent: n-hexane:ethyl acetate=1:1) and recrystallized from n-hexane to give 1-{1-[4-(2-methoxycarbonylethyl)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril (1.46 g) as white powder, m.p.: 85°-86° C.

reactant | 1-{1-[4-(2-Carboxyethyl)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 2 g | C(=O)(O)CCC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C24H26N2O4
reactant | thionyl chloride | 1.1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 50 ml | CO | CH4O
product | 1-{1-[4-(2-methoxycarbonylethyl)benzoyl]-4-piperidinyl}-3,4-dihydrocarbostyril | 1.46 g | COC(=O)CCC1=CC=C(C(=O)N2CCC(CC2)N2C(=O)CCC3=CC=CC=C23)C=C1 | C25H28N2O4
